US07595315B2
2-{2-[2-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethyl}-morpholine-4-carboxylic acid tert-butyl ester
Add (Boc)2O (159 mg, 0.705 mmol), at 0° C., to a solution of 2-{2-[2-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethyl}-morpholine (245 mg, 0.62 mmol), Et3N (0.27 ml, 1.92 mmol) and DMAP (8 mg, 0.064 mmol) in 6 ml of CH2Cl2 and stir at room temperature for 2 h. Concentrate the solvent under reduced pressure and add Et2O . Wash the ethereal phase with HCl/H2O (1M) and then with brine. Dry the organic phase over Na2SO4, filter and remove the solvent to afford impure the title compound, which is used in the next step without further purification.

reactant | (Boc)2O | 0.705 mmol, 159 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-{2-[2-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethyl}-morpholine | 0.62 mmol, 245 mg | C(C)(C)(C)[Si](OC1=C(C=CC=C1)CC(C1=CC=CC=C1)C1CNCCO1)(C)C | C24H35NO2Si
reactant | Et3N | 1.92 mmol, 0.27 ml | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.064 mmol, 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 2-{2-[2-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethyl}-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)C(CC1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C29H43NO4Si
